US05763144
Preparation of 1-[4-(1,1-dioxo-thiomorpholin-4-yl)-phenoxy]-3-(nonyl)-propan-2-ol (112)
4-(1,1-dioxo-thiomorpholin-4-yl)phenol (2.3 g, 10 mmol), 2-(decyl)-oxirane (1.9 g, 10 mmol) and ethyltriphenylphosphonium bromide (0.2 g) are reacted and purified as described for compound 102 to afford a light brown solid 1.6 g (38%), m.p. 84° C.

reactant | 4-(1,1-dioxo-thiomorpholin-4-yl)phenol | 10 mmol, 2.3 g | O=S1(CCN(CC1)C1=CC=C(C=C1)O)=O | C10H13NO3S
reactant | 2-(decyl)-oxirane | 10 mmol, 1.9 g | C(CCCCCCCCC)C1OC1 | C12H24O
catalyst | ethyltriphenylphosphonium bromide | 0.2 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-[4-(1,1-dioxo-thiomorpholin-4-yl)-phenoxy]-3-(nonyl)-propan-2-ol | 1.6 g, 38% | O=S1(CCN(CC1)C1=CC=C(OCC(CCCCCCCCCC)O)C=C1)=O | C22H37NO4S
